US06727264B1
2-METHYL-N-{3-[1-({3-[4-(TRIFLUOROMETHYL)PHENYL]-1H-PYRAZOL-4-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole-4-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 471.1 (M+H)+.

reactant | 3-[4-(trifluoromethyl)phenyl]-1H-pyrazole-4-carbaldehyde | FC(C1=CC=C(C=C1)C1=NNC=C1C=O)(F)F | C11H7F3N2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-({3-[4-(TRIFLUOROMETHYL)PHENYL]-1H-PYRAZOL-4-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1C(=NNC1)C1=CC=C(C=C1)C(F)(F)F)C | C26H29F3N4O
